US04384966
A mixture of 7.4 parts of diketene and 1.2 parts of bis-(t-butylcyclohexyl)-perdicarbonate was added dropwise over 1 hour to 65.4 parts of vigorously stirred n-butyl phenylthiophosphonite which was heated at 85° C. in a nitrogen atmosphere. The mixture was then passed down a wiped wall still at 70° C. and a pressure of 0.013 mb to remove unreacted starting materials. The residue was distilled on the wiped wall still at 115° C. and a pressure of 0.013 mb and gave crude n-butyl(2-oxo-4-oxetanylmethyl)phenylthiophosphinate as a colourless oil which contained a more volatile impurity. The crude product was passed down a wiped wall still at 85° C. and a pressure of 0.013 mb and the involatile fraction was found to be pure n-butyl(2-oxo-4-oxetanylmethyl)phenylthiophosphinate which 31P NMR showed to be a mixture of diastereoisomers having chemical shifts at δ-83.7 and δ-83.2 and which had the following elemental analysis by weight.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | n-butyl phenylthiophosphonite | C1(=CC=CC=C1)P(SCCCC)[O-]
product | n-butyl(2-oxo-4-oxetanylmethyl)phenylthiophosphinate | C(CCC)OP(=S)(C1=CC=CC=C1)CC1CC(O1)=O | C14H19O3PS
